US04267176
A solution of phosphoryl chloride (2.14 g.) in N,N-dimethylformamide (14 ml.) was stirred at 37° to 40° C. for 30 minutes. To the solution were added methylene chloride (14 ml.) and 2-(6-formamidopyridin-2-yl)-2-dichloroacetoxyiminoacetic acid (syn isomer) (4.48 g.) at -20° to -25° C. and stirred at -10° to -15° C. for 30 minutes [solution A]. On the other hand, 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (4.6 g.) was dissolved in a solution of trimethylsilylacetamide (14 g.) in methylene chloride (150 ml.) at 40° C., and cooled to -10° to -15° C. The solution was added to the above solution A at -10° to -15° C. and stirred at the same temperature for 30 minutes. After removing methylene chloride from the resultant solution under reduced pressure, ice water and ethyl acetate were added to the residue, and adjusted to pH 4 with an aqueous solution of sodium bicarbonate. The aqueous layer was separated, washed with ethyl acetate, adjusted to pH 2 with 10% hydrochloric acid, and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was triturated with diethyl ether. The precipitates were collected by filtration; washed with diethyl ether and dired to give 7-[2-(6-formamidopyridin-2-yl)-2-hydroxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (5.0 g.), mp. 110° to 115° C.

reactant | phosphoryl chloride | 2.14 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(6-formamidopyridin-2-yl)-2-dichloroacetoxyiminoacetic acid | 4.48 g | C(=O)NC1=CC=CC(=N1)C(C(=O)O)=NOC(C(Cl)Cl)=O | C10H7Cl2N3O5
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.6 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | trimethylsilylacetamide | 14 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(6-formamidopyridin-2-yl)-2-hydroxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 5.0 g | C(=O)NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NO | C18H17N9O6S2
